US07846954B2
To a solution of (3R)-3-(tert-butyldiphenylsilyloxy)-1-phenylpyrrolidin-2-one (2.88 g, 6.93 mmol) in THF (8.6 mL) at 0° C. was added TBAF (13.9 mL of 1 M in THF, 13.86 mmol) slowly and the reaction mixture was stirred at RT for 3 h. The reaction mixture was poured into water and extracted with EtOAc (3×). The combined organics were dried over Na2SO4 and evaporated to dryness. Purification by silica gel chromatography (0-10% MeOH in DCM) gave (R)-3-hydroxy-1-phenylpyrrolidin-2-one as a white solid (0.9 g 73%). 1H-NMR (400 MHz, DMSO-d6) δ 7.69 (d, J=7.8 Hz, 2H), 7.40-7.36 (m, 2H), 7.14 (t, J=7.4 Hz, 1H), 5.75 (d, J=5.8 Hz, 1H), 4.33-4.27 (m, 1H), 3.77-3.66 (m, 2H), 2.44-2.36 (m, 1H) and 1.86-1.81 (m, 1H) ppm.

reactant | (3R)-3-(tert-butyldiphenylsilyloxy)-1-phenylpyrrolidin-2-one | 6.93 mmol, 2.88 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C(N(CC1)C1=CC=CC=C1)=O | C26H29NO2Si
reactant | TBAF | 13.86 mmol, 1 M, 13.9 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | THF | 8.6 mL | C1CCOC1 | C4H8O
product | (R)-3-hydroxy-1-phenylpyrrolidin-2-one | O[C@H]1C(N(CC1)C1=CC=CC=C1)=O | C10H11NO2
